US07439232B2
Next, to a mixture of (4-ethylphenyl)-[3-[2-(trimethylsilyl)ethoxymethoxy]pyridin-4-yl]-methanol (20 g, 55.6 mmol), tetrahydrofuran (500 ml) and water (20 ml), p-toluenesulfonic acid monohydrate (26.3 g, 138 mmol) was added. After stirring at 50° C. for 4 hours, at room temperature for 15.5 hours and at 50° C. for 3 hours, the reaction mixture was neutralized with saturated aqueous sodium bicarbonate and extracted three times with chloroform. The combined organic layers were dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (chloroform:methanol=10:1) to give (4-ethylphenyl)-(3-hydroxypyridin-4-yl)-methanol (10.9 g, 86%) as a light-yellow amorphous substance.

reactant | (4-ethylphenyl)-[3-[2-(trimethylsilyl)ethoxymethoxy]pyridin-4-yl]-methanol | 55.6 mmol, 20 g | C(C)C1=CC=C(C=C1)C(O)C1=C(C=NC=C1)OCOCC[Si](C)(C)C | C20H29NO3Si
reactant | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
reactant | p-toluenesulfonic acid monohydrate | 138 mmol, 26.3 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 20 ml | O | H2O
product | (4-ethylphenyl)-(3-hydroxypyridin-4-yl)-methanol | 10.9 g, 86% | C(C)C1=CC=C(C=C1)C(O)C1=C(C=NC=C1)O | C14H15NO2
